US06559145B2
Ethyl 6-iodo-4-oxo-1,4-dihydropyrido[2,3-c]pyridazine-3-carboxylate [P.3, Y=Iodo].
A mixture of ethyl 3-(2-chloro-5-iodo-3-pyridinyl)-2-hydrazono-3-oxopropanoate (Preparation 20, 1.0 g) and sodium bicarbonate (0.33 g) in 1,4-dioxane (15 mL) is heated to reflux for 24 h. The reaction mixture is cooled to room temperature and concentrated in vacuo to give a slurry which is treated with water (ca. 1 mL), ethyl acetate (ca. 3 mL), and hexane (ca. 2 mL). The mixture is filtered and the solid is washed with aq. ethanol (2 mL) to give, from several crops, a total of 0.48 g (54% yield) of the title compound. Physical characteristics: mp 238-242° C.; 1H NMR (300 MHz, DMSO-d6) δ 1.30, 4.23, 8.73, 8.93; IR (drift) 1675, 1561, 1526, 1468, 1390, 1374, 1339, 1313, 1304, 1249, 1209, 1158, 1141, 826, 601 cm−1; MS (ESI−) m/z 344 (M−H)−; HRMS (FAB) m/z 345.9692 (C10H8IN3O3+H).

reactant | ethyl 3-(2-chloro-5-iodo-3-pyridinyl)-2-hydrazono-3-oxopropanoate | 1.0 g | ClC1=NC=C(C=C1C(C(C(=O)OCC)=NN)=O)I | C10H9ClIN3O3
reactant | sodium bicarbonate | 0.33 g | C([O-])(O)=O.[Na+]
reactant | water | ca. 1 mL | O | H2O
reactant | ethyl acetate | ca. 3 mL | C(C)(=O)OCC | C4H8O2
solvent | 1,4-dioxane | 15 mL | O1CCOCC1 | C4H8O2
solvent | hexane | ca. 2 mL | CCCCCC | C6H14
product | Ethyl 6-iodo-4-oxo-1,4-dihydropyrido[2,3-c]pyridazine-3-carboxylate | 0.48 g, 54% yield | IC1=CC2=C(NN=C(C2=O)C(=O)OCC)N=C1 | C10H8IN3O3
